US06800651B2
N-(3-(2-Phenylvinyl)phenyl)-N-(ethanesulfonyl)pyrid-3-ylmethylamine
Benzyltriphenylphosphonium bromide (0.765 g, 1.77 mmol) was dispersed into THF (12 ml) and cooled at 0° C. To the cooled suspension was added dropwise a solution of potassium bis(trimethylsilyl)amide (0.5 M, 3.5 ml, 1.75 mmol). After stirring at 0° C. for 1 h, a solution of). N-(3-formyl-phenyl)-N-(ethylsulfonyl)pyrid-3-ylmethylamine (0.304 g, 1.0 mmol) in THF was added. The reaction mixture was stirred at ambient temperature for 2 h. Evaporation and chromatography on silica-gel eluting with toluene-EtOAc to give the title compound. 1H NMR: 8.48 (d,1H,J=3.4 Hz), 8.30 (d,1H,J=2.0 Hz), 7.65 (d,1H,J=7.8 Hz), 7.30-6.74 (m,8H), 6.60 (q,2H,J=12.2, 37.1 Hz), 4.68 (s,2H), 2.87 (q,2H,J=7.3 Hz), 1.28 (t,3H,J=7.4 Hz). MS calcd 378.1; MS (M+1) 379.1.

reactant | Benzyltriphenylphosphonium bromide | 1.77 mmol, 0.765 g | [Br-].C(C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium bis(trimethylsilyl)amide | 1.75 mmol, 0.5 M, 3.5 ml | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | N-(3-formyl-phenyl)-N-(ethylsulfonyl)pyrid-3-ylmethylamine | 1.0 mmol, 0.304 g | C(=O)C=1C=C(C=CC1)N(S(=O)(=O)CC)CC=1C=NC=CC1 | C15H16N2O3S
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 12 ml | C1CCOC1 | C4H8O
product | N-(3-(2-Phenylvinyl)phenyl)-N-(ethanesulfonyl)pyrid-3-ylmethylamine | C1(=CC=CC=C1)C=CC=1C=C(C=CC1)N(S(=O)(=O)CC)CC=1C=NC=CC1 | C22H22N2O2S
